US07838543B2
Step 2. N2-Isopropyl-N2-methyl-benzothiazole-2,6-diamine
Combine isopropyl-methyl-(6-nitro-benzothiazol-2-yl)-amine (1.32 g, 5.25 mmol) and 5% palladium on carbon (3.00 g) in EtOH (50 mL) and THF (25 mL). Shake on a Parr shaker at 60 psi hydrogen at room temperature for 7 h. Filter with filter paper, washing with EtOH (20 mL), and concentrate in vacuo to afford the title compound (1.04 g, 90%). 1H NMR (400 MHz, CDCl3): δ 7.36 (d, 1H, J=8.4 Hz), 6.93 (d, 1H, J=2.2 Hz), 6.67 (dd, 1H, J=8.6, 2.4 Hz), 4.31 (m, 1H), 3.62 (s, 2H), 2.99 (s, 3H), 1.25 (d, 6H, J=6.6 Hz).

reactant | isopropyl-methyl-(6-nitro-benzothiazol-2-yl)-amine | 5.25 mmol, 1.32 g | C(C)(C)N(C=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-])C | C11H13N3O2S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 3.00 g | [Pd] | Pd
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N2-Isopropyl-N2-methyl-benzothiazole-2,6-diamine | 1.04 g, 90% | C(C)(C)N(C=1SC2=C(N1)C=CC(=C2)N)C | C11H15N3S
